US07074800B1
To a solution of 7-(2-(piperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (6 g, 14.4 mmol) in methanol (30 ml) and methylene chloride (60 ml) was added 37% aqueous formaldehyde (2.2 ml; 28.9 mmol) followed by acetic acid (990 μl; 17.3 mmol). Sodium borohydride triacetate (4.6 g, 21.6 mmol) was added in portions. After stirring for 1 hour at ambient temperature, the volatiles were removed under vacuum and the residue was partitioned between water (50 ml) and methylene chloride (50 ml). The pH of the aqueous layer was adjusted to 7, washed with water, brine, dried (MgSO4) and evaporated. The solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 7-(2-(1-methylpiperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (4.2 g, 68%).

reactant | 7-(2-(piperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 14.4 mmol, 6 g | N1CCC(CC1)CCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C22H31N3O5
reactant | formaldehyde | 28.9 mmol, 2.2 ml | C=O | CH2O
reactant | acetic acid | 17.3 mmol, 990 μl | C(C)(=O)O | C2H4O2
reactant | Sodium borohydride triacetate | 21.6 mmol, 4.6 g | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.[BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 7-(2-(1-methylpiperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 4.2 g, 68% | CN1CCC(CC1)CCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C23H33N3O5
